US07652032B2
2-methyl-6-methoxyimidazo[1,2-α]pyridine
0.74 g (8.04 mW of chloroacetone is added to a solution of 0.5 g (mM) of 2-amino-5-methoxypyridine in 17 ml of ethanol. The mixture is refluxed for 20 hours and then concentrated under reduced pressure. Ethyl acetate is added to the evaporation residue and the organic phase is washed with a saturated aqueous solution of sodium bicarbonate and then with a saturated solution of sodium chloride. The organic phase is subsequently dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The evaporation residue is purified by NH2 (amino group)-grafted silica gel chromatography, elution being carried out with a toluene/isopropyl alcohol mixture (99/1; v/v). The expected product is obtained in the form of an orange oil with a yield of 54%.

reactant | chloroacetone | ClCC(C)=O | C3H5ClO
reactant | 2-amino-5-methoxypyridine | 0.5 g | NC1=NC=C(C=C1)OC | C6H8N2O
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | 2-methyl-6-methoxyimidazo[1,2-α]pyridine | yield of 54% | CC=1N=C2N(C=C(C=C2)OC)C1 | C9H10N2O
